US04289787
4-Phenylbutyryl chloride was reacted with 1-methylheptylamine to provide N-(1-methylheptyl)-4-phenylbutyramide, which, when reduced by reaction with diborane in tetrahydrofuran, provided N-(1-methylheptyl)-4-phenylbutylamine. The amine so formed was reacted with formic acid and formaldehyde to give N-methyl-N-(1-methylheptyl)-4-phenylbutylamine.

reactant | 4-Phenylbutyryl chloride | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | 1-methylheptylamine | CC(CCCCCC)N | C8H19N
product | N-(1-methylheptyl)-4-phenylbutyramide | CC(CCCCCC)NC(CCCC1=CC=CC=C1)=O | C18H29NO
